US08198279B2
1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)urea (AA-014)
Method F2 was used with 8-(4-aminonaphthalen-1-yloxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one and 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene to afford the title compound as a slightly pink solid (50 mg, 61%).

reactant | 8-(4-aminonaphthalen-1-yloxy)-2-methylpyrido[2,3-b]pyrazin-3(4H)-one | NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=2NC(C(=NC21)C)=O | C18H14N4O2
reactant | 1-fluoro-2-isocyanato-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C8H3F4NO
product | 1-(2-fluoro-5-(trifluoromethyl)phenyl)-3-(4-(2-methyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazin-8-yloxy)naphthalen-1-yl)urea | FC1=C(C=C(C=C1)C(F)(F)F)NC(=O)NC1=CC=C(C2=CC=CC=C12)OC1=CC=NC=2NC(C(=NC21)C)=O | C26H17F4N5O3
